US04683239
2-(2-Chloroethyl)piperidine Hydrochloride
A 27.2 g (0.2 mole) sample of 2-(2-hydroxyethyl)piperidine was treated with ethereal hydrogen chloride and the salt was dried briefly. The solid was dissolved in 125 mL of warm chloroform and then 33.5 mL (0.46) of thionyl chloride was added in portions to the solution. The mixture was refluxed for 2.5 hr. The reaction mixture was cooled to room temperature, and the solvent evaporated in vacuo to a brown solid. The solid was recrystallized from ethanol-ether to give 17 g (46% yield) of the title compound as solid, mp=160°-162° C.

reactant | 2-(2-hydroxyethyl)piperidine | OCCC1NCCCC1 | C7H15NO
reactant | hydrogen chloride | Cl | ClH
product | 2-(2-Chloroethyl)piperidine Hydrochloride | 17 g, 46% yield | Cl.ClCCC1NCCCC1 | InChI=1S/C7H14ClN.ClH/c8-5-4-7-3-1-2-6-9-7;/h7,9H,1-6H2;1H
